### ISSUE TITLE
floatNaN and floatInf can be core's Float.nan and Float.inf, whose absence their comments still assert

### ISSUE THREAD

**Issue by jessealama** [jessealama/lakatos#336]
`floatNaN` and `floatInf` are defined as arithmetic that produces the value, because core had no constant for either. Core has both now, and the comment on `floatNaN` says out loud that this should change when it does:

```lean
-- engines/thales/Js/Number/Basic.lean
/-- IEEE NaN, the value the `NaN` global names (core has `Float.isNaN`
but no constant; a future toolchain's `Float.nan` can replace the body). -/
def floatNaN : Float := 0.0 / 0.0

-- engines/thales/Js/Binders.lean
/-- IEEE positive infinity, the endpoint an infinite `number` bound compares
against (core has `Float.isInf` but no constant). -/
def floatInf : Float := 1.0 / 0.0
```

Both parenthetical claims are now false on the pinned toolchain, so the comments misdescribe the engine's own dependency whatever is decided about the bodies.

## What core provides, and since when

`Float.nan` and `Float.inf` arrived in the floating-point API work upstream. They are **not** in v4.33.0 and **are** in v4.34.0-rc2, which is what `engines/thales/lean-toolchain` pins:

```
$ elan run leanprover/lean4:v4.33.0 lean nan-check.lean
Lean 4.33.0
nan-check.lean:4:7: error(lean.unknownIdentifier): Unknown constant `Float.nan`
nan-check.lean:5:7: error(lean.unknownIdentifier): Unknown constant `Float.inf`

$ elan run leanprover/lean4:v4.34.0-rc2 lean nan-check.lean
Lean 4.34.0-rc2
Float.nan : Float
Float.inf : Float
def Float.nan : Float :=
{ toModel := Float.Model.nan }
def Float.inf : Float :=
{ toModel := Float.Model.inf }
9221120237041090560
9221120237041090560
9218868437227405312
9218868437227405312
```

where `nan-check.lean` is, with no imports:

```lean
#version
#check Float.nan
#check Float.inf
#print Float.nan
#print Float.inf

example : Float.nan.toBits = (0.0 / 0.0 : Float).toBits := by decide
example : Float.inf.toBits = (1.0 / 0.0 : Float).toBits := by decide
example : (-Float.inf).toBits = (-(1.0 / 0.0) : Float).toBits := by decide

#eval Float.nan.toBits
#eval (0.0 / 0.0 : Float).toBits
#eval Float.inf.toBits
#eval (1.0 / 0.0 : Float).toBits
```

## Why the swap is safe

The three `example`s above close, and that is the whole safety argument in one line each. `by decide` succeeds only if both sides reduce in the kernel to the same value, so each one establishes at once that:

- the constants are **bit-identical** to the current bodies — `0x7FF8000000000000` and `0x7FF0000000000000`, matching the `#eval` pairs; and
- they are **kernel-reducible**, which is the load-bearing property. They are plain defs over `Float.Model`, not `opaque` and not `@[extern]` without a model, so `decide` can evaluate through them exactly as it evaluates through the division today.

That second point is the one to check on any future toolchain bump before trusting this: there are 174 references to the two names across 19 Lean files, and the bit-exact pins in `Test/Js/` reduce through them.

## What must not change

The **names** stay. `floatNaN` and `floatInf` are contract in two directions:

- the renderer emits them as unqualified atoms into every artifact, and `reservedNames` in `ThalesEmit/Render.lean` primes any source identifier that would shadow them;
- the `Js/Norm.lean` bound lemmas are stated over `floatInf`, so a goal from an emitted artifact only matches them while the artifact spells the atom that way.

So this is a change of two bodies and two doc comments, nothing else. Replacing the names with core's, or emitting `Float.inf` into artifacts, is a different and much larger question that this issue does not ask.

## Scope

- `Js/Number/Basic.lean`: `floatNaN := Float.nan`, and a comment that no longer describes a toolchain we left behind.
- `Js/Binders.lean`: `floatInf := Float.inf`, same.
- Nothing else, unless the gate says otherwise.

## How to know it worked

The existing suites are the test: `lake build ThalesDslTest` covers the bit-exact pins that reduce through both names, and the corpus and envelope runs cover the emitted side. No new test is needed — a body swap that preserved neither value nor reducibility would fail hundreds of existing pins, which is a better check than anything added for the occasion.

Worth measuring while there: `Float.Model.nan` may reduce more cheaply than `0.0 / 0.0`, which goes through division. If the `decide` pins get faster it is a small bonus, and if they do not, nothing is lost. That is a measurement, not a claim.

## Priority

Cosmetic. The substance is that two comments now assert something false about the toolchain the engine builds on, and a reader trusting them would conclude core still lacks these constants.
